US09126993B2
N-{2-[3-(propan-2-yl)phenyl]propan-2-yl}-1,4-diazabicyclo[3.2.2]nonane-4-carboxamide
Using general procedure F, N-(2-(3-(prop-1-en-2-yl)phenyl)propan-2-yl)-1,4-diazabicyclo[3.2.2]nonane-4-carboxamide (100 mg, 0.305 mmol) and palladium, (20 mg, 20 wt. % on carbon) gave the title compound as an off-white solid (60 mg, 57%). 1H NMR (400 MHz, CDCl3) δ 7.28-7.21 (m, 3H), 7.11 (d, J=8.0 Hz, 1H), 4.71 (s, 1H), 4.02 (s, 1H), 3.66 (t, J=8.0 Hz, 2H) 3.15 (m, 7H), 2.06 (br s, 2H), 1.77 (s, 7H) 1.26 (d, J=4.0 Hz, 6H) ppm. 13C NMR (100 MHz, CDCl3) δ 155.8, 148.9, 148.5, 128.5.1, 124.7, 123.1, 122.4, 57.8, 56.0, 48.1, 46.4, 41.2, 34.5, 32.2, 30.4, 30.0, 29.9, 27.3, 24.3, 22.9 ppm. Purity: >91% UPLCMS (210 nm); retention time 0.74 min; (M+1) 330.

reactant | N-(2-(3-(prop-1-en-2-yl)phenyl)propan-2-yl)-1,4-diazabicyclo[3.2.2]nonane-4-carboxamide | 0.305 mmol, 100 mg | C=C(C)C=1C=C(C=CC1)C(C)(C)NC(=O)N1CCN2CCC1CC2 | C20H29N3O
catalyst | palladium | [Pd] | Pd
product | N-{2-[3-(propan-2-yl)phenyl]propan-2-yl}-1,4-diazabicyclo[3.2.2]nonane-4-carboxamide | 60 mg, 57% | CC(C)C=1C=C(C=CC1)C(C)(C)NC(=O)N1CCN2CCC1CC2 | C20H31N3O
